US05597826
7-Benzoyloxy-1-(4-methyl-1-piperazinyl)-naphthalene
A mixture of 7-hydroxy-1-(4-methyl-1-piperazinyl)-naphthalene (0.065 g, 0.268 mmol) and benzoyl chloride (0.035 mL, 0.302 mmol) in methylene chloride (1 mL) and saturated sodium bicarbonate (1 mL) was stirred at room temperature. After several hours, a second equivalent of benzoyl chloride was added with continued stirring overnight. The reaction was diluted with ethyl acetate and the phases were separated. The organic layer was washed with 1N sodium hydroxide, water and brine; then it was dried over magnesium sulfate and concentrated to an oil which solidified (0.065 g, 69%). A sample recrystallized from ether/hexane as a light pink solid was submitted for analysis: mp 82°-82.5° C. Analysis calculated for C22H22N2O2 ·0.25 H2O: C, 75.30; H, 6.46; N, 7.98. Found: C, 75.51; H, 6.29; N, 7.97.

reactant | 7-hydroxy-1-(4-methyl-1-piperazinyl)-naphthalene | 0.268 mmol, 0.065 g | OC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H18N2O
reactant | benzoyl chloride | 0.302 mmol, 0.035 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | 1 mL | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Benzoyloxy-1-(4-methyl-1-piperazinyl)-naphthalene | C(C1=CC=CC=C1)(=O)OC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C22H22N2O2
